US09107916B2
C. methyl 2-[5-[(2-cyano-4-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carboxylate
The title compound was prepared from methyl 2-(5-hydroxypyrazol-1-yl)pyridine-4-carboxylate (PREPARATION 6) and 2-(hydroxymethyl)-5-methylbenzonitrile according to the procedure for the preparation of Example 125, part B. 1H NMR (400 MHz, CDCl3): δ 3.40 (3H, s), 3.97 (3H, s), 5.40 (2H, s), 5.83 (1H, d, J=1.2 Hz), 7.43 (1H, d, J=8.8 Hz), 7.50 (1H, s), 7.58-7.62 (2H, m), 7.76 (1H, d, J=5.2 Hz), 8.33 (1H, s), 8.68 (1H, d, J=5.2 Hz). [M+H] Calc'd for C19H16N4O3, 349. Found, 349.

reactant | methyl 2-(5-hydroxypyrazol-1-yl)pyridine-4-carboxylate | OC1=CC=NN1C1=NC=CC(=C1)C(=O)OC | C10H9N3O3
reactant | 2-(hydroxymethyl)-5-methylbenzonitrile | OCC1=C(C#N)C=C(C=C1)C | C9H9NO
product | methyl 2-[5-[(2-cyano-4-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carboxylate | C(#N)C1=C(C=CC(=C1)C)COC1=CC=NN1C1=NC=CC(=C1)C(=O)OC | C19H16N4O3
